US05753664
7-[4-(4-Methylbenzoyl)benzyl]-1,3-dimethylxanthine
A solution of 1,3-dimethylxanthine (99 mg), potassium carbonate (135 mg), 4-(4-methylbenzoyl)benzyl bromide (201 mg) in DMF (10 ml) was stirred at 60° C. for 5 hours. This reaction mixture was poured in water and extracted with ethyl acetate. The extract was washed with water, dried, and concentrated. The residue was purified by silica gel column chromatography (hexane: ethyl acetate =1:5) and recrystallized from ethyl acetate-isopropyl ether to provide the title compound as colorless solid (98 mg).

reactant | 1,3-dimethylxanthine | 99 mg | CN1C(=O)N(C=2N=CNC2C1=O)C | C7H8N4O2
reactant | potassium carbonate | 135 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4-methylbenzoyl)benzyl bromide | 201 mg | CC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C15H13BrO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 7-[4-(4-Methylbenzoyl)benzyl]-1,3-dimethylxanthine | 98 mg | CC1=CC=C(C(=O)C2=CC=C(CN3C=NC=4N(C(N(C(C34)=O)C)=O)C)C=C2)C=C1 | C22H20N4O3
